US06432993B1
t-Butyl N-[5-(4-methoxymethoxy-3,5-dimethylphenoxy)-2-nitrophenyl]-N-methylcarbamate
By using 1.46 g of 4-methoxymethoxy-3,5-dimethylphenol, 2.29 g of t-butyl N-(5-chloro-2-nitrophenyl)-N-methylcarbamate, 0.35 g of sodium hydride (55% by weight) and 30 ml of anhydrous N,N-dimethylformamide, reaction and purification were carried out in a similar manner to that described in Reference Example 6, whereby 3.14 g of the title compound were obtained.

reactant | 4-methoxymethoxy-3,5-dimethylphenol | 1.46 g | COCOC1=C(C=C(C=C1C)O)C | C10H14O3
reactant | t-butyl N-(5-chloro-2-nitrophenyl)-N-methylcarbamate | 2.29 g | ClC=1C=CC(=C(C1)N(C(OC(C)(C)C)=O)C)[N+](=O)[O-] | C12H15ClN2O4
reactant | sodium hydride | 0.35 g | [H-].[Na+]
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | t-Butyl N-[5-(4-methoxymethoxy-3,5-dimethylphenoxy)-2-nitrophenyl]-N-methylcarbamate | 3.14 g | COCOC1=C(C=C(OC=2C=CC(=C(C2)N(C(OC(C)(C)C)=O)C)[N+](=O)[O-])C=C1C)C | C22H28N2O7
